US06194409B1
86c. 4-Amino-furo[3,2-c]pyridine-2-carbonitrile
This compound was prepared from 2-iodo-furo[3,2-c]pyridin-4-ylamine (5.2 g), zinc cyanide (3.6 g), triphenylphosphine (2.1 g) and palladium acetate (1.8 g) in 75 mL of N-methyl-pyrrolidone using the procedure described for 1-amino-isoquinoline-7-carbonitrile. Yield: 2.0 g (64%); yellow solid; m.p. 280° C. (decomp.).

reactant | 2-iodo-furo[3,2-c]pyridin-4-ylamine | 5.2 g | IC1=CC=2C(=NC=CC2O1)N | C7H5IN2O
reactant | triphenylphosphine | 2.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-amino-isoquinoline-7-carbonitrile | NC1=NC=CC2=CC=C(C=C12)C#N | C10H7N3
solvent | N-methyl-pyrrolidone | 75 mL | CN1C(CCC1)=O | C5H9NO
catalyst | zinc cyanide | 3.6 g | [C-]#N.[Zn+2].[C-]#N
catalyst | palladium acetate | 1.8 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-Amino-furo[3,2-c]pyridine-2-carbonitrile | NC1=NC=CC2=C1C=C(O2)C#N | C8H5N3O
